US05599825
4) Synthesis of 3-ethyl-5-(3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazolin-2-ylidene)thiazolidine-4-on-2-thion
1.9 g of 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazoline-2-thion and 1.8 g of methyl p-toluenesulfonate were fed into a 50 ml short-neck flask provided with a reflux condenser. The resultant mixture was heated at 120° C. for 4 hours. After cooling the reaction mixture to room temperature followed by addition of 0.8 g of 3-ethylthiazolidine-4-on-2-thion and 24 ml of acetonitrile, the resultant mixture was cooled to 5° C., and 1.0 g of triethylamine was added thereto. After stirring at 10° C. for 24 hours, yellow precipitates thus obtained were suction-filtered, washed with 10 ml of acetonitrile three times, and dried to obtain the intended compound.

reactant | 3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazoline-2-thion | 1.9 g | COCCOCCOCCN1C(SC2=C1C=CC1=CC=CC=C12)=S | C18H21NO3S2
reactant | methyl p-toluenesulfonate | 1.8 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | 3-ethylthiazolidine-4-on-2-thion | 0.8 g | C(C)N1C(SCC1=O)=S | C5H7NOS2
reactant | acetonitrile | 24 ml | C(C)#N | C2H3N
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | 3-ethyl-5-(3-methoxyethoxyethoxyethylnaphtho[2,1-d]thiazolin-2-ylidene)thiazolidine-4-on-2-thion | C(C)N1C(SC(C1=O)=C1SC2=C(N1CCOCCOCCOC)C=CC1=CC=CC=C12)=S | C23H26N2O4S3
